// Generated for: spectre
// Generated on: Jul 27 17:50:24 2024
// Design library name: CMOSinverter_001
// Design cell name: CMOSinverter_Simulation
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters _gpar0
include "/home/work/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN
include "/home/work/gpdk045_v_5_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: CMOSinverter_001
// Cell name: CMOSinverter
// View name: schematic
subckt CMOSinverter GND VDD Vin Vout
    FirstINV (Vout Vin GND GND) gpdk090_nmos1v w=(120n) l=100n as=69.6f \
        ad=69.6f ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    FirstPMOS (Vout Vin VDD VDD) gpdk090_pmos1v w=(120n) l=100n as=69.6f \
        ad=69.6f ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
ends CMOSinverter
// End of subcircuit definition.

// Library name: CMOSinverter_001
// Cell name: CMOSinverter_Simulation
// View name: schematic
I0 (0 vdd! Vin Vout) CMOSinverter
V0 (vdd! 0) vsource dc=1 type=dc
V1 (Vin 0) vsource type=pulse val0=1 val1=0 period=20n rise=50p \
        fall=_gpar0 width=10n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0:2 
saveOptions options save=allpub
